US07858640B2
[8-chloro-2-difluoromethoxy-3-(4-methanesulfonylbenzyl)-4-methylquinolin-5-yloxy]acetic Acid
A solution of [8-chloro-2-difluoromethoxy-3-(4-methanesulfonylbenzyl)-4-methylquinolin-5-yloxy]acetic acid methyl ester (0.14 g), methanol (5.0 mL), saturated aqueous lithium hydroxide solution (0.5 mL) and water (0.4 mL) was stirred at room temperature for 35 minutes. The pH of the solution was adjusted to 5 by the addition of glacial acetic acid and the methanol removed under reduced pressure. The resulting precipitate was collected by filtration, washed with water and dried to afford title compound as a white solid 0.13 g.

reactant | [8-chloro-2-difluoromethoxy-3-(4-methanesulfonylbenzyl)-4-methylquinolin-5-yloxy]acetic acid methyl ester | 0.14 g | COC(COC1=C2C(=C(C(=NC2=C(C=C1)Cl)OC(F)F)CC1=CC=C(C=C1)S(=O)(=O)C)C)=O | C22H20ClF2NO6S
reactant | methanol | 5.0 mL | CO | CH4O
reactant | lithium hydroxide | 0.5 mL | [OH-].[Li+]
reactant | water | 0.4 mL | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | [8-chloro-2-difluoromethoxy-3-(4-methanesulfonylbenzyl)-4-methylquinolin-5-yloxy]acetic Acid | 0.13 g | ClC=1C=CC(=C2C(=C(C(=NC12)OC(F)F)CC1=CC=C(C=C1)S(=O)(=O)C)C)OCC(=O)O | C21H18ClF2NO6S
